US09216173B2
To a solution of 3-bromo-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole (73.5 g, 390 mmol) in THF (600 mL) was slowly added n-butyllithium (1.6 M in hexanes, 300 mL, 480 mmol) at −78° C. After 45 minutes, triisopropylborate (111 mL, 480 mmol) was added at −78° C., and the reaction mixture was allowed to warm to ambient temperature. After 1 hour, pinacol (1.8 M in THF, 300 mL, 540 mmol) was added. After 5 minutes, acetic acid (24 mL, 420 mmol) was added. After 30 minutes, the reaction mixture was filtered through CELITE, washed with saturated aqueous sodium bicarbonate solution, and extracted with ethyl acetate (2×500 mL). The organic layers were combined, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by chromatography on silica gel to afford 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole. MS ESI calc'd. for C12H20BN2O2 [M+H]+ 235. found 235. 1H NMR (300 MHz, CDCl3) δ 7.77 (s, 1H), 4.12 (t, J=6.9 Hz, 2H), 2.97 (t, J=6.9 Hz, 2H), 2.60 (t, J=6.9 Hz, 2H), 1.29 (s, 12H).

reactant | 3-bromo-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | 390 mmol, 73.5 g | BrC1=C2N(N=C1)CCC2 | C6H7BrN2
reactant | n-butyllithium | 480 mmol, 1.6 M, 300 mL | C(CCC)[Li]
reactant | triisopropylborate | 480 mmol, 111 mL | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | pinacol | 540 mmol, 1.8 M, 300 mL | OC(C)(C)C(C)(C)O | C6H14O2
reactant | acetic acid | 420 mmol, 24 mL | C(C)(=O)O | C2H4O2
solvent | THF | 600 mL | C1CCOC1 | C4H8O
product | 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole | CC1(OB(OC1(C)C)C1=C2N(N=C1)CCC2)C | C12H19BN2O2
